US07244730B2
(Step 9) N1-Methyl-4-(azidomethyl)-5-cyano-2-(dimethylamino)benzamide
After dissolving N1-methyl-5-cyano-2-(dimethylamino)-4-(hydroxymethyl)benzamide (849 mg, 3.6 mmol) in tetrahydrofuran (20 ml), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.77 ml, 5.1 mmol) and diphenylphosphoryl azide (1.1 ml, 5.1 mmol) were added and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (755 mg) as a faint yellow powder. (80% yield)

reactant | N1-methyl-5-cyano-2-(dimethylamino)-4-(hydroxymethyl)benzamide | 3.6 mmol, 849 mg | CNC(C1=C(C=C(C(=C1)C#N)CO)N(C)C)=O | C12H15N3O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.1 mmol, 0.77 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphoryl azide | 5.1 mmol, 1.1 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N1-Methyl-4-(azidomethyl)-5-cyano-2-(dimethylamino)benzamide | 755 mg, 80% yield | CNC(C1=C(C=C(C(=C1)C#N)CN=[N+]=[N-])N(C)C)=O | C12H14N6O
